US08912330B2
tert-butyl 4-[4-(1-{[(E)-(2,6-dichloro-3-fluorophenyl)methylidene]amino}-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate:
A mixture of tert-butyl 4-[4-(1-amino-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (100 mg, 0.26 mmol) and 2,6-dichloro-3-fluorobenzaldehyde (50 mg, 0.26 mmol) in heptane (2.0 mL) was heated in a sealed tube at 120° C. for 15 min. The product was purified by column chromatography (ethyl acetate) to give the desired intermediate as an off-white solid (126 mg, yield 87%).

reactant | tert-butyl 4-[4-(1-amino-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.26 mmol, 100 mg | NN1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H26N6O2
reactant | 2,6-dichloro-3-fluorobenzaldehyde | 0.26 mmol, 50 mg | ClC1=C(C=O)C(=CC=C1F)Cl | C7H3Cl2FO
solvent | heptane | 2.0 mL | CCCCCCC | C7H16
product | tert-butyl 4-[4-(1-{[(E)-(2,6-dichloro-3-fluorophenyl)methylidene]amino}-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 126 mg, yield 87% | ClC1=C(C(=CC=C1F)Cl)\C=N\N1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C27H27Cl2FN6O2
